US04337354
Step H. 2-Allyl-6,7-dichloro-5-hydroxy-2,3-dihydro-1H-inden-1-one.
Dry pyridine hydrochloride (500 gm.) is melted and heated to 195° C. and 2-allyl-6,7-dichloro-5-methoxy-2,3-dihydro-1H-inden-1-one (45.4 gm., 0.167 mole) is added with stirring. The reaction mixture is kept at 195° C. for 45 minutes and then poured with vigorous stirring into crushed ice (2 kg.). The crude produce is collected by filtration, washed with water and dried. The 2-allyl-6,7-dichloro-5-hydroxy-2,3-dihydro-1H-inden-1-one is recrystallized from a mixture of ethanol andwater.

reactant | pyridine hydrochloride | 500 gm | Cl.N1=CC=CC=C1
reactant | 2-allyl-6,7-dichloro-5-methoxy-2,3-dihydro-1H-inden-1-one | 0.167 mole, 45.4 gm | C(C=C)C1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C13H12Cl2O2
product | 2-Allyl-6,7-dichloro-5-hydroxy-2,3-dihydro-1H-inden-1-one | C(C=C)C1C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O | C12H10Cl2O2
